US04323578
A mixture of 17.12 g (0.3 mol) of methyl isocyanate and 47.74 g (0.3 mol) of S-methyl (Z)-2,2,2-trifluoro-N-(hydroxy)thioacetimidate was sealed in a glass tube and heated at 100° in a steam bath for 17 hours. The contents of the tube were distilled at reduced pressure to give 62.02 g (96%) of S-methyl (Z)-2,2,2-trifluoro-N-(methylcarbamoyloxy)thioacetimidate as a colorless, viscous liquid: bp 96° (0.6 mm); nD25 1.4638; ir (neat) 5.73μ (C=O); 19F NMR (CFCl3) δ-64.6 ppm (q, J=1.2 Hz); 1H NMR (CFCl3) δ2.63 ppm (q, J=1.2 Hz, 3H), 2.88 ppm (d, J=4.5 Hz, 3H) and 6.47 ppm (NH).

reactant | methyl isocyanate | 0.3 mol, 17.12 g | CN=C=O | C2H3NO
reactant | S-methyl (Z)-2,2,2-trifluoro-N-(hydroxy)thioacetimidate | 0.3 mol, 47.74 g | FC(/C(/SC)=N/O)(F)F | C3H4F3NOS
product | S-methyl (Z)-2,2,2-trifluoro-N-(methylcarbamoyloxy)thioacetimidate | 62.02 g, 96% | FC(/C(/SC)=N/OC(NC)=O)(F)F | C5H7F3N2O2S
